US04314061
3,6-bis(2-acetamidoethoxy)acridine
3,6-bis(2-aminoethoxy)acridine is treated with acetic anhydride/acetic acid followed by in vacuo removal of the volatiles, giving, after crystallization, the desired product.

reactant | 3,6-bis(2-aminoethoxy)acridine | NCCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCN | C17H19N3O2
reactant | acetic anhydride acetic acid | C(C)(=O)OC(C)=O.C(C)(=O)O
product | 3,6-bis(2-acetamidoethoxy)acridine | C(C)(=O)NCCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCNC(C)=O | C21H23N3O4
